US04034092
7-Trifluoromethylthioacetamido-3-(5-carboxymethyl-1,3,4-oxadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid
7-Trifluoromethylthioacetamido-3-(5-carboxymethyl-1,3,4-oxadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid disodium salt is dissolved in a minimum amount of water to which ethyl acetate is added. While stirring, 3N hydrochloric acid is added until the solution is acidified to pH 2.5. The layers are separated, the aqueous phase is extracted with ethyl acetate and the combined extracts are washed with water, dried (MgSO4) and evaporated to dryness to give the title compound.

reactant | 7-Trifluoromethylthioacetamido-3-(5-carboxymethyl-1,3,4-oxadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid disodium salt | [Na+].[Na+].FC(F)(F)CC(=S)NC1[C@@H]2N(C(=C(CS2)CSC=2OC(=NN2)CC(=O)O)C(=O)[O-])C1=O.FC(F)(F)CC(=S)NC1[C@@H]2N(C(=C(CS2)CSC=2OC(=NN2)CC(=O)O)C(=O)[O-])C1=O
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Trifluoromethylthioacetamido-3-(5-carboxymethyl-1,3,4-oxadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | FC(F)(F)CC(=S)NC1[C@@H]2N(C(=C(CS2)CSC=2OC(=NN2)CC(=O)O)C(=O)O)C1=O | C15H13F3N4O6S3
